US06605618B2
4-[(2S)-2-Hydroxy-3-(2-{4-[1-(4-phenyl-thiazol-2-yl)-piperidin-4-ylamino]-phenyl]-ethylamino)-propoxy}-phenol
tert-Butyl 4-{[1-(4-phenyl-1,3-thiazol-2-yl)-4-piperidinyl]amino}phenethylcarbamate formate (0.40 g 1.04 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.42 g, 1.04 mmol) according to Procedure G to give the title compound (0.25 g, 0.319 mmol).

reactant | tert-Butyl 4-{[1-(4-phenyl-1,3-thiazol-2-yl)-4-piperidinyl]amino}phenethylcarbamate formate | 1.04 mmol, 0.40 g | C(=O)O.C1(=CC=CC=C1)C=1N=C(SC1)N1CCC(CC1)NC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.04 mmol, 0.42 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-[(2S)-2-Hydroxy-3-(2-{4-[1-(4-phenyl-thiazol-2-yl)-piperidin-4-ylamino]-phenyl]-ethylamino)-propoxy}-phenol | 0.319 mmol, 0.25 g | O[C@H](COC1=CC=C(C=C1)O)CNCCC1=CC=C(C=C1)NC1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C31H36N4O3S
